US06498156B2
N-[3-(3-Butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)-phenyl]-5-{4-[3-(3-hydroxy-3-phenylpropyl)-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzylamino}pentanamide (1)
100 mg of N-[3-(3-butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)phenyl]-5-bromopentanamide and 70 mg of 1-(4-aminomethylphenyl)-3-(3-hydroxy-3-phenylpropyl)-4-(4-methoxyphenyl)azetidin-2-one are dissolved in 5 ml of dimethylformamide and, with stirring, heated at 80° C. for about 2 to 3 hours. After the reaction has ended (monitored by thin-layer chromatogram or HPLC-MS), the solvent is removed under reduced pressure and the residue is purified by chromatography. This gives product 1 of molecular weight 929.24 (C55H68N4O7S); MS (FAB): 929 (M+H+).

reactant | N-[3-(3-butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)phenyl]-5-bromopentanamide | 100 mg | C(CCC)C1(C(C(C2=C(S(C1)(=O)=O)C=CC(=C2)N(C)C)C=2C=C(C=CC2)NC(CCCCBr)=O)O)CC | C29H41BrN2O4S
reactant | 1-(4-aminomethylphenyl)-3-(3-hydroxy-3-phenylpropyl)-4-(4-methoxyphenyl)azetidin-2-one | 70 mg | NCC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OC)CCC(C1=CC=CC=C1)O)=O | C26H28N2O3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[3-(3-Butyl-7-dimethylamino-3-ethyl-4-hydroxy-1,1-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]thiepin-5-yl)-phenyl]-5-{4-[3-(3-hydroxy-3-phenylpropyl)-2-(4-methoxyphenyl)-4-oxoazetidin-1-yl]benzylamino}pentanamide | C(CCC)C1(C(C(C2=C(S(C1)(=O)=O)C=CC(=C2)N(C)C)C=2C=C(C=CC2)NC(CCCCNCC2=CC=C(C=C2)N2C(C(C2=O)CCC(C2=CC=CC=C2)O)C2=CC=C(C=C2)OC)=O)O)CC | C55H68N4O7S
